US05698735
8.0 g (0.06 tool) and 5.4 g (0.0198 mol) of n-butyl phenylsulfonyloxyacetate are reacted in 60 ml of mesitylene by the method of Example 7, and the reaction mixture is hydrolyzed with 5 g of NaOH in 15 ml of water and 50 ml of methanol to give the acid. 3.0 g (85% of theory) of mesitylacetic acid are isolated.

reactant | n-butyl phenylsulfonyloxyacetate | 0.0198 mol, 5.4 g | C1(=CC=CC=C1)S(=O)(=O)OCC(=O)OCCCC | C12H16O5S
reactant | NaOH | 5 g | [OH-].[Na+]
reactant | mesitylene | 60 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
solvent | water | 15 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | mesitylacetic acid | 3.0 g, 85% | C1(=C(C(=CC(=C1)C)C)CC(=O)O)C | C11H14O2
